US06548533B2
1-Benzoyl-2-(4-nitro-phenyl)-pyrrolidine-3-carboxylic Acid Methyl Ester
A stirred solution of (4-nitro-benzylidene)-trimethylsilanylmethyl-amine (22 g, prepared as described in Chem. Pharm. Bull. 31(11) page 3939, 1893) in tetrahydrofuran (440 ml), at 45° C., was treated dropwise over 1.5 hour with a mixture of benzoyl chloride (10.1 ml) and methyl acrylate (9.3 ml) in tetrahydrofuran (500 ml). After stirring for 2.5 hours at 45° C. the mixture was allowed to cool to 20° C. then evaporated (40° C. and 2.7 kPa). The residue was dissolved in ethyl acetate (800 ml) and the solution was washed with hydrochloric acid (500 ml, 1N), then with aqueous sodium hydroxide solution (500 ml, 1N), then with water (500 ml), then dried over magnesium sulphate and then evaporated (40° C. and 2.7 kPa). The residue was subjected to chromatography on silica (500 g, 0.020-0.045 mm particle size) using a 60 mm internal diameter column and eluting with a mixture of cyclohexane and ethyl acetate (80:20, v/v) at 100 ml/minute affording the title compound (8.33 g) as a yellowish powder. 1H-NMR [500 MHz, (CD3)2SO at 373° K.] δ 2.19 (m, 1H); 2.32 (m, 1H); 3.34 (s, 3H); 3.70 (m, 2H); 4.03 (m, 1H); 5.52 (m, 1H); 7.35 to 7.50 (m, 7H); 8.12 (d, J=8.5 Hz, 2H). MS (EI): 354[M]+.

reactant | (4-nitro-benzylidene)-trimethylsilanylmethyl-amine | 22 g | [N+](=O)([O-])C1=CC=C(C=NC[Si](C)(C)C)C=C1 | C11H16N2O2Si
reactant | benzoyl chloride | 10.1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methyl acrylate | 9.3 ml | C(C=C)(=O)OC | C4H6O2
solvent | tetrahydrofuran | 440 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-Benzoyl-2-(4-nitro-phenyl)-pyrrolidine-3-carboxylic Acid Methyl Ester | 8.33 g | COC(=O)C1C(N(CC1)C(C1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C19H18N2O5
